US05240925
b. Preparation of 1-[2-Cyano-2-(2,4-dichlorophenyl)-3-(1-methylpiperidin-3-yl)propyl]-1,2,4-triazole
This compound (1.8 g.) was prepared using the procedure described in Example 9b except using 3.0 g. (0.010 mole) of 2-(2,4-dichlorophenyl)-3-(1-methylpiperidin-3-yl)propionitrile, 1.7 g. (0.011 mole) of 1-(chloromethyl)-1,2,4-triazole, 2.0 g. (0.025 mole) of 50% aqueous sodium hydroxide, and 30 ml. of DMSO yielding a white solid, melting point 125°-126° C.

reactant | 2-(2,4-dichlorophenyl)-3-(1-methylpiperidin-3-yl)propionitrile | 0.010 mole | ClC1=C(C=CC(=C1)Cl)C(C#N)CC1CN(CCC1)C | C15H18Cl2N2
reactant | 1-(chloromethyl)-1,2,4-triazole | 0.011 mole | ClCN1N=CN=C1 | C3H4ClN3
reactant | sodium hydroxide | 0.025 mole | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[2-Cyano-2-(2,4-dichlorophenyl)-3-(1-methylpiperidin-3-yl)propyl]-1,2,4-triazole | C(#N)C(CN1N=CN=C1)(CC1CN(CCC1)C)C1=C(C=C(C=C1)Cl)Cl | C18H21Cl2N5
